US06353023B1
Alkylation of phenol E-4 (from Chart E) is accomplished by a carbenoid insertion reaction with di-t-butyl diazomalonate (Synthesis 1974, 347) catalyzed by rhodium acetate (J. Med. Chem. 1995, 38:4270), affording malonate ether I-1. Removal of the t-butyl esters is accomplished with trifluroacetic acid in methylene chloride, and the benzyl ester is removed by hydrogenolysis, affording the desired triacid I-3.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | di-t-butyl diazomalonate | [N+](=[N-])=C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C11H18N2O4
catalyst | rhodium acetate | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | malonate ether | C(CC(=O)[O-])(=O)[O-].CCOCC | InChI=1S/C4H10O.C3H4O4/c1-3-5-4-2;4-2(5)1-3(6)7/h3-4H2,1-2H3;1H2,(H,4,5)(H,6,7)/p-2
